US05453427
Ethyl α-[2-methyl-4-(3-trifluoromethylphenoxy)-5-pyrimidinyl]-acetate (3 g, 8 mmol) are dissolved in methyl formate (10 ml) and added to a suspension of NaH (0.6 g, 80% in oil, 20 mmol) in 1,2-dimethoxyaethane at room temperature. After 16 hours methyl iodide (2.5 ml, 40 mmol) is added with cooling. After further 2 hours the reaction mixture is diluted with ether and washed with brine. Drying and chromatography on silicagel (eluant: hexane/ethyl acetate 1:1) gives the methyl α-[2-methyl-4-(3-trifluoromethylphenoxy)-5-pyrimidinyl]-β-methoxyacrylate compound as a crystalline solid, m.p. 100°-102° C.

reactant | Ethyl α-[2-methyl-4-(3-trifluoromethylphenoxy)-5-pyrimidinyl]-acetate | 8 mmol, 3 g | CC1=NC=C(C(=N1)OC1=CC(=CC=C1)C(F)(F)F)CC(=O)OCC | C16H15F3N2O3
reactant | NaH | 20 mmol, 0.6 g | [H-].[Na+]
reactant | methyl iodide | 40 mmol, 2.5 ml | CI | CH3I
reactant | methyl formate | 10 ml | C(=O)OC | C2H4O2
solvent | ether | CCOCC | C4H10O
product | methyl α-[2-methyl-4-(3-trifluoromethylphenoxy)-5-pyrimidinyl]-β-methoxyacrylate | CC1=NC=C(C(=N1)OC1=CC(=CC=C1)C(F)(F)F)C(C(=O)OC)=COC | C17H15F3N2O4
